US07842688B2
a) tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-{2-[2-(2-[1.2.4]triazol-1-ylethyl)phenoxy]ethoxy}piperidine-1-carboxylate
0.051 g of sodium 1,2,4-triazolide is admixed with a solution of 0.10 g of tert-butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-(2-{2-[2-(toluene-4-sulphonyloxy)ethyl]phenoxy}-ethoxy)piperidine-1-carboxylate in 3 ml of N,N-dimethylformamide. The reaction mixture is stirred at 90° C. over 40 minutes. The mixture is cooled to room temperature, diluted with tert-butyl methyl ether and washed with water. The water phase is extracted with tert-butyl methyl ether. The combined organic phases are dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a colourless oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.13 (2:1 EtOAc-heptane); Rt=5.66.

reactant | sodium 1,2,4-triazolide | 0.051 g | N1N=[C-]N=C1.[Na+]
reactant | tert-butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-(2-{2-[2-(toluene-4-sulphonyloxy)ethyl]phenoxy}-ethoxy)piperidine-1-carboxylate | 0.10 g | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCCOC2=C(C=CC=C2)CCOS(=O)(=O)C2=CC=C(C=C2)C)C=CC=C1 | C44H55NO10S
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | tert-butyl methyl ether | COC(C)(C)C | C5H12O
product | tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-{2-[2-(2-[1.2.4]triazol-1-ylethyl)phenoxy]ethoxy}piperidine-1-carboxylate | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCCOC2=C(C=CC=C2)CCN2N=CN=C2)C=CC=C1 | C39H50N4O7
